US07053212B2
To a solution of N-(2-pyridin-4-yl-ethyl)-3-{4-[[3-(tetrahydro-pyran-2-yloxy)-benzyl]-(2,4,6-trimethyl-benzenesulfonyl)-amino]-phenyl}-acrylamide (0.059 g, 0.09 mmol) in 0.4 mL methanol and 0.1 mL tetrahydrofuran was added HCl (0.5 mL of a 4.0 M solution in 1,4-dioxane, 2 mmol). The reaction mixture was stirred at room temperature for 24 hr. Saturated aqueous sodium bicarbonate was added and the aqueous solution was washed with methylene chloride. The organic layer was dried (magnesium sulfate) and concentrated. The residue was purified by preparative TLC (eluting with 10% methanol/methylene chloride) to afford 0.018 g of 3-{4-[(3-hydroxy-benzyl)-(2,4,6-trimethyl-benzenesulfonyl)-amino]-phenyl}-N-(2-pyridin-4-yl-ethyl)-acrylamide. 1H NMR (CDCl3) δ 8.32 (d, 2H, J=4.8 Hz), 7.27 (d, 1H, J=16.4 Hz), 7.18 (d, 2H, J=5.2 Hz), 7.03–6.98 (m, 4H), 6.90–6.86 (m, 4H), 6.69 (s, 2H), 6.60 (d, 1H, J=7.2 Hz), 6.24 (d, 1H, J=15.6 Hz), 4.67 (s, 2H), 3.62–3.57 (m, 2H), 2.88 (t, 2H, J=6.4 Hz), 2.41 (s, 6H), 2.24 (s, 3H).

reactant | N-(2-pyridin-4-yl-ethyl)-3-{4-[[3-(tetrahydro-pyran-2-yloxy)-benzyl]-(2,4,6-trimethyl-benzenesulfonyl)-amino]-phenyl}-acrylamide | 0.09 mmol, 0.059 g | N1=CC=C(C=C1)CCNC(C=CC1=CC=C(C=C1)N(S(=O)(=O)C1=C(C=C(C=C1C)C)C)CC1=CC(=CC=C1)OC1OCCCC1)=O | C37H41N3O5S
reactant | HCl | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 0.4 mL | CO | CH4O
solvent | tetrahydrofuran | 0.1 mL | O1CCCC1 | C4H8O
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 3-{4-[(3-hydroxy-benzyl)-(2,4,6-trimethyl-benzenesulfonyl)-amino]-phenyl}-N-(2-pyridin-4-yl-ethyl)-acrylamide | 0.018 g | OC=1C=C(CN(C2=CC=C(C=C2)C=CC(=O)NCCC2=CC=NC=C2)S(=O)(=O)C2=C(C=C(C=C2C)C)C)C=CC1 | C32H33N3O4S
